### PR TITLE
[Merged by Bors] - feat (RootSystem/Hom): endomorphisms and automorphisms of root pairings

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR introduces the root pairing endomorphism monoid and automorphism group, and shows that the representations on weight and coweight spaces are injective.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 1]
```diff
@@ -104,8 +122,122 @@ lemma Hom.comp_assoc {ι₁ M₁ N₁ ι₂ M₂ N₂ ι₃ M₃ N₃ : Type*} [
...
+@[simp]
+lemma indexEquiv_mul (P : RootPairing ι R M N) (x y : Hom P P) :
+    Hom.indexEquiv (x * y) = Hom.indexEquiv x ∘ Hom.indexEquiv y :=
+  rfl
+
+/-- The endomorphism monoid of a root pairing. -/
+abbrev End (P : RootPairing ι R M N) := Hom P P
+
+/-- The automorphism group of a root pairing. -/
+abbrev Aut (P : RootPairing ι R M N) := (End P)ˣ
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:167]: I'm not sure this should be the definition of automorphisms. I think instead we should define:
```lean
@[ext]
structure Equiv {ι₂ M₂ N₂ : Type*}
    [AddCommGroup M₂] [Module R M₂] [AddCommGroup N₂] [Module R N₂]
    (P : RootPairing ι R M N) (Q : RootPairing ι₂ R M₂ N₂) where
  /-- A linear equivalence on weight space. -/
  weightMap : M ≃ₗ[R] M₂
  /-- A contravariant linear equivalence on coweight space. -/
  coweightMap : N₂ ≃ₗ[R] N
  /-- A bijection on index sets. -/
  indexEquiv : ι ≃ ι₂
  weight_coweight_transpose : Q.toDualRight ≪≫ₗ weightMap.dualMap = coweightMap ≪≫ₗ P.toDualRight
  root_weightMap : weightMap ∘ P.root = Q.root ∘ indexEquiv
  coroot_coweightMap : coweightMap ∘ Q.coroot = P.coroot ∘ indexEquiv.symm
```
and then use `Equiv P P` for `Aut V` instead of `(End P)ˣ`.

I claim the advantage of using `Equiv P P` is that in due course we will wish to talk about equivalence of root pairings, and these will have to be written using `Equiv P Q`. Life will be simpler if there is one standard way to speak of an equivalence of a root pairing with itself. In other words, if we use `(End P)ˣ` here, since we'll eventually be forced to introduce `Equiv P Q`, we will be forced to author `(End P)ˣ ≃* Equiv P P` and transport things across it. (In fact this design is probably why you need to use `Module.endUnitsToModuleAutEquiv` as part of these changes, though obviously `Module.endUnitsToModuleAutEquiv` is worth having anyway.)

The only annoying thing is a bunch of API will have to be duplicated for `Hom` and `Equiv`, and this will be a tiny bit more awkward than for the analogous situation with `LinearMap` and `LinearEquiv` since we cannot have `Equiv` extend `Hom` (because the data of the maps `M → M₂`, `N → N₂` is not at the top-level in the class fields).

What do you think?

If you agree but are not so keen on writing even more boilerplate, I'd be happy to spend some time on this at the weekend, and could push up a commit.

**Review by ocfnash — COMMENTED** [review]
This looks great, but I have one design question.

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/RootSystem/Hom.lean:167]: That sounds like an excellent idea. I will try to take care of it myself.

I would like to rename `weightMap` (and similar parts) to something like `weightEquiv` or `weightIsom` in this case.  Does that seem reasonable?

Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Hom.lean:167]: I don't have strong feelings on naming here, but the idea of the new names fits nicely with a final thought I had after I wrote the above. Specifically, we could define `RootPairing.Equiv` in a way that would allow us to extend `RootPairing.Hom` (and thus save a little manual API writing) as follows:
```lean
variable {ι₂ M₂ N₂ : Type*}
    [AddCommGroup M₂] [Module R M₂] [AddCommGroup N₂] [Module R N₂]
    (P : RootPairing ι R M N) (Q : RootPairing ι₂ R M₂ N₂)

@[ext]
structure Equiv extends Hom P Q where
    bijective_weightMap : Bijective weightMap
    bijective_coweightMap : Bijective coweightMap

namespace Equiv

def weightEquiv (e : Equiv P Q) : M ≃ₗ[R] M₂ :=
    LinearEquiv.ofBijective _ e.bijective_weightMap

def coweightEquiv (e : Equiv P Q) : N₂ ≃ₗ[R] N :=
    LinearEquiv.ofBijective _ e.bijective_coweightMap

-- More API

end Equiv
```

Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/RootSystem/Hom.lean:167]: It turns out `Module.endUnitsToModuleAutEquiv` already exists, as `LinearMap.GeneralLinearGroup.generalLinearEquiv`, so I will reconfigure.

Comment (ScottCarnahan) [reply Mathlib/LinearAlgebra/RootSystem/Hom.lean]: Okay, I think I put in enough API.  I'm afraid this PR became quite large.

File: Mathlib/Algebra/Module/Equiv/Defs.lean [hunk 2]
```diff
@@ -391,6 +391,18 @@ theorem toLinearMap_symm_comp_eq (f : M₃ →ₛₗ[σ₃₁] M₁) (g : M₃ 
   · simp [← H, ← e₁₂.toEquiv.symm_comp_eq f g]
   · simp [H, e₁₂.toEquiv.symm_comp_eq f g]
 
+@[simp]
+theorem comp_toLinearMap_eq_iff (f g : M₃ →ₛₗ[σ₃₁] M₁) :
+    e₁₂.toLinearMap.comp f = e₁₂.toLinearMap.comp g ↔ f = g := by
+  refine ⟨ fun h => ?_, fun a ↦ congrArg (e₁₂).comp a ⟩
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Equiv/Defs.lean:397]: nit:
```suggestion
  refine ⟨fun h => ?_, congrArg e₁₂.comp⟩
```

File: Mathlib/LinearAlgebra/Dual.lean [hunk 3]
```diff
@@ -604,6 +604,20 @@ def evalEquiv : M ≃ₗ[R] Dual R (Dual R M) :=
     (evalEquiv R M).symm.dualMap = Dual.eval R (Dual R M) := by
   ext; simp
 
+lemma dualMap_dualMap_comp {M' : Type*} [AddCommGroup M'] [Module R M'] {f : M →ₗ[R] M'} :
+    f.dualMap.dualMap = Dual.eval R M' ∘ₗ f ∘ₗ (evalEquiv R M).symm := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual.lean:608]: How about flipping the sides and making simp. E.g.,
```suggestion
@[simp] lemma Dual.eval_comp_comp_evalEquiv_eq
    {M' : Type*} [AddCommGroup M'] [Module R M'] {f : M →ₗ[R] M'} :
    Dual.eval R M' ∘ₗ f ∘ₗ (evalEquiv R M).symm = f.dualMap.dualMap := by
```

File: Mathlib/LinearAlgebra/Dual.lean [hunk 4]
```diff
@@ -604,6 +604,20 @@ def evalEquiv : M ≃ₗ[R] Dual R (Dual R M) :=
...
+  ext x g
+  simp only [dualMap_apply, coe_comp, LinearEquiv.coe_coe, Function.comp_apply, Dual.eval_apply]
+  rw [← apply_evalEquiv_symm_apply, dualMap_apply]
+
+lemma dualMap_dualMap_eq_iff {M' : Type*} [AddCommGroup M'] [Module R M'] {f g : M →ₗ[R] M'}
+    (h : Injective (Dual.eval R M')) : f.dualMap.dualMap = g.dualMap.dualMap ↔ f = g := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual.lean:614]: How about we add a convenience version for when `M'` is also reflexive. So we could call this:
```suggestion
lemma dualMap_dualMap_eq_iff_of_injective
    {M' : Type*} [AddCommGroup M'] [Module R M'] {f g : M →ₗ[R] M'}
    (h : Injective (Dual.eval R M')) :
    f.dualMap.dualMap = g.dualMap.dualMap ↔ f = g := by
```
and then below add:
```lean
@[simp]
lemma dualMap_dualMap_eq_iff
    {M' : Type*} [AddCommGroup M'] [Module R M'] [IsReflexive R M'] {f g : M →ₗ[R] M'} :
    f.dualMap.dualMap = g.dualMap.dualMap ↔ f = g :=
  dualMap_dualMap_eq_iff_of_injective _ _ (bijective_dual_eval R M').injective
```

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 5]
```diff
@@ -82,31 +102,450 @@ def Hom.comp {ι₁ M₁ N₁ ι₂ M₂ N₂ : Type*} [AddCommGroup M₁] [Modu
...
+@[simp]
+lemma indexEquiv_mul (P : RootPairing ι R M N) (x y : Hom P P) :
+    indexEquiv (x * y) = indexEquiv x ∘ indexEquiv y :=
+  rfl
+
+/-- The endomorphism monoid of a root pairing. -/
+abbrev _root_.RootPairing.End (P : RootPairing ι R M N) := Hom P P
+
+/-- The weight space representation of endomorphisms -/
+def weightHom (P : RootPairing ι R M N) : End P →* (M →ₗ[R] M) where
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:169]: Optional:
```suggestion
def weightHom (P : RootPairing ι R M N) : End P →* (Module.End R M) where
```

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 6]
```diff
@@ -82,31 +102,450 @@ def Hom.comp {ι₁ M₁ N₁ ι₂ M₂ N₂ : Type*} [AddCommGroup M₁] [Modu
...
+  toFun g := Hom.weightMap (P := P) (Q := P) g
+  map_mul' g h := by ext; simp
+  map_one' := by ext; simp
+
+lemma weightHom_injective (P : RootPairing ι R M N) : Injective (weightHom P) := by
+  intro f g hfg
+  ext x
+  · exact congrFun (congrArg DFunLike.coe hfg) x
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:177]: Hardly matters but if things get this fiddly, there should be a lemma. Luckily there is here:
```suggestion
  · exact LinearMap.congr_fun hfg x
```

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 7]
```diff
@@ -82,31 +102,450 @@ def Hom.comp {ι₁ M₁ N₁ ι₂ M₂ N₂ : Type*} [AddCommGroup M₁] [Modu
...
+    rw [this, Equiv.apply_symm_apply]
+
+end Hom
+
+variable {ι₂ M₂ N₂ : Type*}
+    [AddCommGroup M₂] [Module R M₂] [AddCommGroup N₂] [Module R N₂]
+    (P : RootPairing ι R M N) (Q : RootPairing ι₂ R M₂ N₂)
+
+/-- An equivalence of root pairings is a morphism where the maps of weight and coweight spaces are
+bijective.  `Equiv.toEndUnit` gives an isomorphism to invertible morphisms. -/
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:225]: Fully qualifying a name will make it work as a link in the docs. (Working tweak just personal preference, feel free to ignore.)
```suggestion
bijective.

See also `RootPairing.Equiv.toEndUnit`. -/
```

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 8]
```diff
@@ -82,31 +102,450 @@ def Hom.comp {ι₁ M₁ N₁ ι₂ M₂ N₂ : Type*} [AddCommGroup M₁] [Modu
...
+@[ext]
+protected structure Equiv extends Hom P Q where
+    bijective_weightMap : Bijective weightMap
+    bijective_coweightMap : Bijective coweightMap
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:229]:
```suggestion
  bijective_weightMap : Bijective weightMap
  bijective_coweightMap : Bijective coweightMap
```

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 9]
```diff
@@ -82,31 +102,450 @@ def Hom.comp {ι₁ M₁ N₁ ι₂ M₂ N₂ : Type*} [AddCommGroup M₁] [Modu
...
+
+@[simp]
+lemma weightMap_weightEquiv_symm (e : RootPairing.Equiv P Q) (m : M₂) :
+    e.toHom.weightMap ((weightEquiv P Q e).symm m) = m := by
+  rw [← weightEquiv_apply]
+  exact LinearEquiv.apply_symm_apply (weightEquiv P Q e) m
+
+/-- The contravariant equivalence of coweight spaces given by an equivalence of root pairings. -/
+def coweightEquiv (e : RootPairing.Equiv P Q) : N₂ ≃ₗ[R] N :=
+    LinearEquiv.ofBijective _ e.bijective_coweightMap
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:260]:
```suggestion
  LinearEquiv.ofBijective _ e.bijective_coweightMap
```

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 10]
```diff
@@ -82,31 +102,450 @@ def Hom.comp {ι₁ M₁ N₁ ι₂ M₂ N₂ : Type*} [AddCommGroup M₁] [Modu
...
+    coweightEquiv P P (Equiv.comp x y) = coweightEquiv P P x ≪≫ₗ coweightEquiv P P y := by
+  ext; simp
+
+@[simp]
+lemma coweightEquiv_mul {P : RootPairing ι R M N} (x y : RootPairing.Equiv P P) :
+    coweightEquiv P P x * coweightEquiv P P y = coweightEquiv P P y ≪≫ₗ coweightEquiv P P x := by
+  rfl
+
+/-- The inverse of a root pairing equivalence. -/
+def inv {ι₂ M₂ N₂ : Type*} [AddCommGroup M₂] [Module R M₂] [AddCommGroup N₂] [Module R N₂]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:379]: For better or worse, I think we should stick with the usual convention:
```suggestion
def symm {ι₂ M₂ N₂ : Type*} [AddCommGroup M₂] [Module R M₂] [AddCommGroup N₂] [Module R N₂]
```

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 11]
```diff
@@ -121,5 +560,27 @@ def Hom.reflection (P : RootPairing ι R M N) (i : ι) : Hom P P where
...
+@[simp]
+lemma Hom.reflection_coweightMap (P : RootPairing ι R M N) (i : ι) :
+    (reflection P i).coweightMap = (P.coreflection i) := rfl
+
+@[simp]
+lemma Hom.reflection_indexEquiv (P : RootPairing ι R M N) (i : ι) :
+    (RootPairing.Equiv.reflection P i).indexEquiv = P.reflection_perm i := rfl
+
+-- TODO: redefine Weyl group
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:583]: I fully support this idea but I think we should probably not note this here.
```suggestion
```

**Review by ocfnash — APPROVED** [review]
Just a few nitpicks.

Great to get all this in place. Thanks so much! 🎉 

bors d+
